US09084794B2
b) 9-(1-(4-bromophenyl)ethyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (0.341 mmol) in N,N-dimethylformamide (1.5 mL) was treated with potassium carbonate (0.682 mmol) and 1-bromo-4-(1-bromoethyl)benzene (0.341 mmol). The reaction mixture was stirred at room temperature overnight. The solution was diluted with water (50 mL) and was extracted three times with dichloromethane. The organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a brown residue (117 mg, 87%). MS(ES)+ m/e 392.9/394.7 [M+H]+ (bromide isotope pattern).

reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 0.341 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
reactant | potassium carbonate | 0.682 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-(1-bromoethyl)benzene | 0.341 mmol | BrC1=CC=C(C=C1)C(C)Br | C8H8Br2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 9-(1-(4-bromophenyl)ethyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | BrC1=CC=C(C=C1)C(C)N1CCC2(CN(C(CO2)=O)C2CC2)CC1 | C19H25BrN2O2
